US07354920B2
b) (S, R) 2-(5-Fluoro-2-methoxy-phenyl)-1-morpholin-2-yl-1-phenyl-ethanol hydrochloride
Alternatively, the following method may be used. A glass hydrogenation flask was loaded with methanol (1.55 L), Pd/C (10%, 31 g, 20% loading), 1-(4-benzyl-morpholin-2-yl)-2-(5-fluoro-2-methoxy-phenyl)-1-phenyl-ethanol (155 g, 0.368 mole) and a solution of HCl in ethanol (2.5N, 233 ml, 0.582 mole, 1.6 eq.). The reactor was mounted on a Parr instrument and pressurized with H2 (49 Psi). The reaction mixture was shaken overnight between 20° C. and 15° C. The catalyst was filtered off and washed with methanol (0.5 L). The filtrates were concentrated under vacuum. The yield of crude title compound was 109.5 g (81%). The catalyst was washed again with methanol (2×500 ml). The filtrates were combined and concentrated under vacuum. The yield of the second crop of crude title compound was 21.7 g (16%). A reactor was loaded with crude title compound (131 g, 0.356 mole) and isopropanol (1.3 L) under N2. The suspension was heated under reflux for 4 hours. The mixture was cooled to 20° C. and the solid was filtered, washed with isopropanol (130 ml), and dried at 50° C. under vacuum. The yield of pure title compound was 115.9 g (88.5% yield).

reactant | methanol | 1.55 L | CO | CH4O
reactant | 1-(4-benzyl-morpholin-2-yl)-2-(5-fluoro-2-methoxy-phenyl)-1-phenyl-ethanol | 0.368 mole, 155 g | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC(=C1)F)OC)(O)C1=CC=CC=C1 | C26H28FNO3
reactant | HCl | Cl | ClH
reactant | ethanol | 0.582 mole, 2.5N, 233 ml, 1.6 eq. | C(C)O | C2H6O
catalyst | Pd/C | 31 g | [Pd] | Pd
solvent | isopropanol | 1.3 L | C(C)(C)O | C3H8O
product | 2-(5-Fluoro-2-methoxy-phenyl)-1-morpholin-2-yl-1-phenyl-ethanol hydrochloride | 0.356 mole, 131 g, 88.5% yield | Cl.FC=1C=CC(=C(C1)CC(O)(C1=CC=CC=C1)C1CNCCO1)OC | InChI=1S/C19H22FNO3.ClH/c1-23-17-8-7-16(20)11-14(17)12-19(22,15-5-3-2-4-6-15)18-13-21-9-10-24-18;/h2-8,11,18,21-22H,9-10,12-13H2,1H3;1H
